US06936602B1
In THF (4.3 ml)/methanol (3.2 ml) was dissolved methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(2-methyltetrazol-5-ylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylate (0.43 g). To the solution was added 1N sodium hydroxide solution (4.3 ml), and the mixture was stirred at room temperature for 14 hours. pH was adjusted to approximate 4 with 1N hydrochloric acid, and the solvent was concentrated to half under reduced pressure. The concentrated material was extracted with ethyl acetate, and the extract was washed with saturated brine and dried with magnesium sulfate. The solvent was removed under reduced pressure, and the resulting residue was washed with hexane/ethyl acetate (=5/1) to give 7-[4-(2-butoxyethoxy)phenyl]-1-(2-methyltetrazol-5-ylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid (0.37 g).

reactant | methyl 7-[4-(2-butoxyethoxy)phenyl]-1-(2-methyltetrazol-5-ylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylate | 0.43 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC=2N=NN(N2)C)C(=O)OC)C1 | C27H33N5O4
reactant | sodium hydroxide | 1N, 4.3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 4.3 ml | C1CCOC1 | C4H8O
solvent | methanol | 3.2 ml | CO | CH4O
product | 7-[4-(2-butoxyethoxy)phenyl]-1-(2-methyltetrazol-5-ylmethyl)-2,3-dihydro-1-benzazepine-4-carboxylic acid | 0.37 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2CC=2N=NN(N2)C)C(=O)O)C1 | C26H31N5O4
